US06737429B2
A solution of 10.9 g of N-tert.-butoxycarbonylglycine N-methyl-N-methoxyamide in 300 ml of anhydrous tetrahydrofuran and 100 ml of anhydrous diethyl ether was cooled at 0-5° C. while 100 ml of a 2M solution of isopropyl magnesium chloride in tetrahydrofuran was added slowly. The mixture was stirred at 0-5° C. for 4 h then poured into 1.5 liter of 1M hydrochloric acid. The product was extracted with three portions of 500 ml diethyl ether. Combined extracts were washed with 500 ml brine then dried over anhydrous magnesium sulphate, filtered and evaporated to give 8.38 g of 4-tert.-butoxycarbonylamino-2-methyl-3-butanone as a colourless oil which was used without further purification.

reactant | N-tert.-butoxycarbonylglycine N-methyl-N-methoxyamide | 10.9 g | CN(C(CNC(=O)OC(C)(C)C)=O)OC | C9H18N2O4
reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | hydrochloric acid | 1M, 1.5 liter | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-tert.-butoxycarbonylamino-2-methyl-3-butanone | 8.38 g | C(C)(C)(C)OC(=O)NCC(C(C)C)=O | C10H19NO3
